US08466255B2
Synthetic preparation of 1,3-dioleoylglycerol
3.8 g of dihydroxyacetone dimer, 25 g of oleic acid, g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride salt, and 12.9 g of 4-dimethylaminopyridine were dissolved in 150 mL of dichloromethane, for reaction under agitation at ambient temperature for 4 hours. The organic layer was washed by adding aqueous 0.5 M potassium dihydrogen phosphate solution to the reaction solution. After the organic layer was dried and concentrated under reduced pressure, 1 L of methanol was added to the resulting residue; the generated powder was filtered and recovered, and then dried. The dried powder was dissolved in a mixture solution of 170 mL of tetrahydrofuran and 17 mL of aqueous 10% acetic acid solution, to which 1.7 g of sodium borohydride was added in small portions at 0° C. Subsequently, the resulting mixture was agitated at ambient temperature for 2 hours to promote the reaction. The resulting reaction solution was poured in saturated aqueous sodium hydrogen carbonate, for extraction with ethyl acetate. After the organic layer was dried, the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography, to obtain 14.5 g of the intended product.

reactant | dihydroxyacetone dimer | 3.8 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | oleic acid | 25 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride salt | Cl.C(C)N=C=NCCCN(C)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | 12.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 1,3-dioleoylglycerol | 14.5 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC(O)COC(CCCCCCC\C=C/CCCCCCCC)=O | C39H72O5
